US06492383B1
(1H-Indol-5-yl)-[6-(4-propylaminomethyl-phenyl)-thieno[3,2-d]pyrimidin-4-yl]-amine
The title compound was prepared from propylamine and 4-(4-(1H-indol-5-ylamino)-thieno[3,2-d]pyrimidin-6-yl]-benzaldehyde by a procedure analogous to example 17. M.P. 190-205° C.; LC-MS: 414 (MH+); HPLC RT: 4.15 minutes.

reactant | propylamine | C(CC)N | C3H9N
reactant | 4-(4-(1H-indol-5-ylamino)-thieno[3,2-d]pyrimidin-6-yl]-benzaldehyde | N1C=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)C=C(S2)C2=CC=C(C=O)C=C2 | C21H14N4OS
product | (1H-Indol-5-yl)-[6-(4-propylaminomethyl-phenyl)-thieno[3,2-d]pyrimidin-4-yl]-amine | N1C=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)C=C(S2)C2=CC=C(C=C2)CNCCC | C24H23N5S
